### PR TITLE
Correctness proof for fuel gated peephole rewrite applier 

### PR DESCRIPTION
**Pull request by bollu**
Recall that the peephole applier tries to apply the rewrite at each program location. It uses fuel to ensure that it always terminates. This models the API that we present in the paper. 

This PR fixes the formatting of this hastily written piece of code.
This also adds the (simple) proof that the peephole applier preserves semantics, which it must, as it is built upon the lower level peephole `rewritePeepholeAt`.

### CODE REVIEW

File: SSA/Core/Framework.lean [hunk 1]
```diff
@@ -1201,17 +1201,34 @@ section SimpPeephole
 section SimpPeepholeApplier
 
 /-- rewrite with `pr` to `target` program, at location `ix` and later, running at most `fuel` steps. -/
-def rewritePeephole_go (fuel : ℕ) (pr : PeepholeRewrite Op Γ t) (ix : ℕ) (target : Com Op Γ₂ t₂) :
-    (Com Op Γ₂ t₂) := 
+def rewritePeephole_go (fuel : ℕ) (pr : PeepholeRewrite Op Γ t)
+    (ix : ℕ) (target : Com Op Γ₂ t₂) : (Com Op Γ₂ t₂) :=
```
Comment (tobiasgrosser) [inline SSA/Core/Framework.lean:1205]: This seems to be a non-functional change, just formatting. Maybe mention this in the PR description.

File: SSA/Core/Framework.lean [hunk 2]
```diff
@@ -1201,17 +1201,34 @@ section SimpPeephole
...
   | fuel' + 1 => 
      let target' := rewritePeepholeAt pr ix target
      rewritePeephole_go fuel' pr (ix + 1) target'
 
 /-- rewrite with `pr` to `target` program, running at most `fuel` steps. -/
-def rewritePeephole (fuel : ℕ) (pr : PeepholeRewrite Op Γ t) (target : Com Op Γ₂ t₂) :
-    (Com Op Γ₂ t₂) := rewritePeephole_go fuel pr 0 target
+def rewritePeephole (fuel : ℕ)
+    (pr : PeepholeRewrite Op Γ t) (target : Com Op Γ₂ t₂) : (Com Op Γ₂ t₂) := 
+  rewritePeephole_go fuel pr 0 target
```
Comment (tobiasgrosser) [inline SSA/Core/Framework.lean:1215]: This seems to be a non-functional change, just formatting. Maybe mention this in the PR description.

File: SSA/Core/Framework.lean [hunk 3]
```diff
@@ -1201,17 +1201,34 @@ section SimpPeephole
...
+  case zero => 
+    simp[rewritePeephole_go, denote_rewritePeepholeAt]
+  case succ fuel' hfuel => 
+    simp[rewritePeephole_go, denote_rewritePeepholeAt, hfuel]
+
+/-- `rewritePeephole` preserves semantics. -/
+theorem denote_rewritePeephole (fuel : ℕ)
+    (pr : PeepholeRewrite Op Γ t) (target : Com Op Γ₂ t₂) :
+    (rewritePeephole fuel pr target).denote = target.denote := by
+  simp[rewritePeephole, denote_rewritePeephole_go]
```
Comment (tobiasgrosser) [inline SSA/Core/Framework.lean:1231]: The obvious correctness statements.

**Review by tobiasgrosser — APPROVED** [review]
LGTM.

File: SSA/Core/Framework.lean (hunk 1 above)
Comment (bollu) [reply SSA/Core/Framework.lean:1205]: Updated the PR description.

File: SSA/Core/Framework.lean (hunk 2 above)
Comment (bollu) [reply SSA/Core/Framework.lean:1215]: Updated the PR description.

File: SSA/Core/Framework.lean (hunk 3 above)
Comment (bollu) [reply SSA/Core/Framework.lean:1231]: Not sure what this comment means, can you elaborate?

Comment (tobiasgrosser) [reply SSA/Core/Framework.lean:1231]: I just state that this statement is the obvious one that we want and is good to go.

Comment (bollu) [reply SSA/Core/Framework.lean:1231]: Discussed on Zulip: Tobias was double-checking that the PR does indeed simply add the obvious correctness proof.
